US05538852
5-(2,5-Dichlorophenyl)pentanoic acid (Competitor 11)
Methyl 5-(2,5-Dichlorophenyl)pentanoate (1.10 g, 4.2 mmol) was dissolved in 20 ml THF and 7 mL methanol. 1N LiOH (12mL) was added dropwise and the reaction was stirred at room temperature for 2 days. The reaction was worked-up by acidification with 2N HCl and removal of most of the THF and methanol on a rotary evaporator followed by extraction of the aqueous residue with ethyl acetate. The organic phase was washed with water and saturated brine, dried over sodium sulfate and concentrated to a residue. Flash chromatography (silica gel; hexane/toluene (19/1) with 1% acetic acid) of the residue gave 725 mg (70%) of a white solid.

reactant | Methyl 5-(2,5-Dichlorophenyl)pentanoate | 4.2 mmol, 1.10 g | ClC1=C(C=C(C=C1)Cl)CCCCC(=O)OC | C12H14Cl2O2
reactant | LiOH | 1N, 12mL | [Li+].[OH-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | methanol | 7 mL | CO | CH4O
product | 5-(2,5-Dichlorophenyl)pentanoic acid | 725 mg, 70% | ClC1=C(C=C(C=C1)Cl)CCCCC(=O)O | C11H12Cl2O2
